US07056916B2
(c) 2-(4-ethylphenyl)-1,1-dimethylethylamine
16.3 g (74 mmol) of N-[2-(4-ethylphenyl)-1,1-dimethylethyl]acetamide and 8.0 g of potassium hydroxide are refluxed for 15 hours in 60 mL ethylene glycol. The reaction mixture is combined with ice water and extracted three times with diethyl ether. The combined organic phases are washed with water, dried with sodium sulfate, and freed from solvent. To prepare the hydrochloride, the crude product is dissolved in acetonitrile and ethereal hydrochloric acid and diethyl ether are added successively. The solid precipitated is suction filtered and dried. Yield: 11.0 g (69%, hydrochloride); melting point 165° C.–167° C.

reactant | N-[2-(4-ethylphenyl)-1,1-dimethylethyl]acetamide | 74 mmol, 16.3 g | C(C)C1=CC=C(C=C1)CC(C)(C)NC(C)=O | C14H21NO
reactant | potassium hydroxide | 8.0 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | ethylene glycol | 60 mL | C(CO)O | C2H6O2
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-(4-ethylphenyl)-1,1-dimethylethylamine | C(C)C1=CC=C(C=C1)CC(C)(C)N | C12H19N
